US07985764B2
A 10.9 mg portion of ethyl 2,3-dimethyl-1H-indole-5-carboxylate was dissolved in 0.300 ml of N,N-dimethylformamide, and 2.0 mg of sodium hydride (60% dispersion in oil) was added, followed by stirring at room temperature for 30 minutes. Then, 6.3 mg of 1-(bromomethyl)-2-fluorobenzene was added, followed by overnight stirring at room temperature. A saturated sodium bicarbonate aqueous solution was added to the reaction liquid, followed by extraction with chloroform. The solvent of the organic layer was evaporated under a reduced pressure, and the residue was dissolved in a mixed solvent of 0.50 ml tetrahydrofuran and 0.50 ml methanol. Then, 0.50 ml of a 1 M sodium hydroxide aqueous solution was added, followed by overnight stirring at 60° C. At room temperature, a 1 M hydrochloric acid aqueous solution was added to the reaction liquid to acidify the water layer, followed by extraction with chloroform. The solvent of the organic layer was evaporated under a reduced pressure, and 0.60 ml an N,N-dimethylformamide solution of 12 mg of 1,1′-carbonylbis-1H-imidazole was added to the residue, followed by stirring at 50° C. for 2 hours. A solution prepared by adding 26 mg of guanidine hydrochloride to 0.400 ml of an N,N-dimethylformamide solution of 10 mg of sodium hydride (60% dispersion in oil) and stirring at room temperature for 30 minutes was added to this reaction liquid at room temperature, followed by overnight stirring at room temperature. Water was added to the reaction liquid, followed by extraction with chloroform. The solvent of the organic layer was evaporated under a reduced pressure, and the resulting residue was purified by a fractional high performance liquid chromatography (acetonitrile/a 0.1% trifluoroacetic acid aqueous solution) to obtain 9.5 mg of N-(diaminomethylene)-1-(2-fluorobenzyl)-2,3-dimethyl-1H-indole-5-carboxamide.

reactant | ethyl 2,3-dimethyl-1H-indole-5-carboxylate | CC=1NC2=CC=C(C=C2C1C)C(=O)OCC | C13H15NO2
reactant | sodium hydride | 2.0 mg | [H-].[Na+]
reactant | 1-(bromomethyl)-2-fluorobenzene | 6.3 mg | BrCC1=C(C=CC=C1)F | C7H6BrF
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | guanidine hydrochloride | 26 mg | Cl.NC(=N)N
reactant | sodium hydride | 10 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 0.300 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.400 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-(diaminomethylene)-1-(2-fluorobenzyl)-2,3-dimethyl-1H-indole-5-carboxamide | 9.5 mg | NC(=NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=C(C=CC=C1)F)C)C)N | C19H19FN4O
